US04242440
Synthesis of Poly-[5,7-dodecadiyn-1,12-diol bis(n-octadecylurethane) (VI)
A mixture of 40 parts 5,7-dodecadiyne-1,12-diol, 215 parts 1,2-dimethoxyethane, 1 part dibutyltin-di-2-ethylhexanoate and 15 parts triethylamine was prepared and the resulting mixture was stirred vigorously. A solution of 133 parts n-octadecylisocyanate in 44 parts of 1,2-dimethoxyethane was added dropwise over a period of 60 min. The reaction temperature rose to 42° C. from 18° C. within 50 min. and then subsided. After the addition, 80 parts of 1,2-dimethoxyethane was then added to the reaction mixture and the mixture was stirred for an additional 2 hrs. To this mixture was added 1390 parts of heptane. The precipitate was collected by filtration, washed with petroleum ether (bp 30°-60° C.) and dried, giving 154.6 parts (99% yield) of desired product, mp 118°-119° C. Anal: calculated C50H92N2O4, C, 76.47%; H, 11.81%; N, 3.57%; found: C, 75.57%; H, 11.65%; N, 3.43%. IR (KBr pellet): 3330 cm-1 (N-H stretching), 2920+2850 cm-1 (C-H stretching), 1680 cm-1 (C=O), 1530 cm-1 (N-H bending), 1470 cm-1 (C-H), 1260 cm-1 (C-O-C stretching). Upon exposure to light, the crystals changed to blue, indicating the compound was solid state polymerizable.

reactant | 5,7-dodecadiyne-1,12-diol | C(CCCC#CC#CCCCCO)O | C12H18O2
reactant | 1,2-dimethoxyethane | COCCOC | C4H10O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | n-octadecylisocyanate | C(CCCCCCCCCCCCCCCCC)N=C=O | C19H37NO
solvent | heptane | CCCCCCC | C7H16
product | 5,7-dodecadiyn-1,12-diol bis(n-octadecylurethane) | 99% yield | C(CCCCCCCCCCCCCCCCC)NC(=O)OCC.C(CCCCCCCCCCCCCCCCC)NC(=O)OCC.C(CCCC#CC#CCCCCO)O | InChI=1S/2C21H43NO2.C12H18O2/c2*1-3-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-22-21(23)24-4-2;13-11-9-7-5-3-1-2-4-6-8-10-12-14/h2*3-20H2,1-2H3,(H,22,23);13-14H,5-12H2
